US08937092B2
2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide
To a stirred solution of (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (3.5 g, 13.143 mmol) and 2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)propanoic acid (5.415 g, 19.715 mmol) in tetrahydrofuran (102 mL) was added 1-hydroxybenzotriazolhydrate (1.834 mL, 13.143 mmol), O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (4.213 g, 13.143 mmol) and N-ethyldiisopropylamine (6.676 mL, 39.429 mmol). The reaction mixture was stirred for 48 h. The reaction mixture was concentrated under reduced pressure and the solid obtained was purified by column chromatography (silica gel: 100-200 mesh, eluent: ethyl acetate/cyclohexane 2:1) to afford a white solid (2.65 mg, 32%).

reactant | (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 13.143 mmol, 3.5 g | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
reactant | 2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)propanoic acid | 19.715 mmol, 5.415 g | FC=1C=C(C=CC1CNS(=O)(=O)C)C(C(=O)O)C | C11H14FNO4S
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 13.143 mmol, 4.213 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyldiisopropylamine | 39.429 mmol, 6.676 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 102 mL | O1CCCC1 | C4H8O
product | 2-(3-fluoro-4-(methylsulfonamidomethyl)phenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 2.65 mg, 32% | FC=1C=C(C=CC1CNS(=O)(=O)C)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C25H25F4N3O3S
